US04435403
93 mg of 6-(N-ethylamino)-beta-carboline-3-carboxylic-acid-ethylester in 8 ml of absolute ethanol is heated together with 49 mg of 1,5-diaza-[5.4.0]bicycloundec-5-ene and 50 mg of allyl bromide under nitrogen for 2 h at 70° C. After evaporation, the substance is distributed in ethyl acetate and saturated sodium bicarbonate solution. The organic phase is dried, filtered and concentrated. The residue is chromatographed by means of 80 g of silica gel with methylene-chloride/ethanol (12/1) as the eluant, and, after recrystallizing out of ethyl-acetate/ether, 56 mg of 6-(N-allyl-N-ethylamino)-beta-carboline-3-carboxylic-acid-ethylester is obtained (m.p. 190°-192° C.).

reactant | 6-(N-ethylamino)-beta-carboline-3-carboxylic-acid-ethylester | 93 mg | C(C)OC(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1)NCC | C16H17N3O2
reactant | bicycloundec-5-ene | C1(CCCC=CCCCCC1)C1CCCCCCCCCC1 | C22H40
reactant | allyl bromide | 50 mg | C(C=C)Br | C3H5Br
solvent | ethanol | 8 ml | C(C)O | C2H6O
product | 6-(N-allyl-N-ethylamino)-beta-carboline-3-carboxylic-acid-ethylester | 56 mg | C(C)OC(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1)N(CC)CC=C | C19H21N3O2
